US04064257
In this example 0.42 g. of methanesulfonyl chloride is added with rapid stirring to a mixture containing 1.2 g. of (+) 3-[5-(hex-5-ynylaminocarbonyl)thiazol-2-yloxy]propane-1,2-diol in 20 ml. of pyridine at -30° C. The mixture is then allowed to warm to room temperature and evaporated to dryness affording a residue of (+) 2-hydroxy-1-methylsulfonyloxy-3-(5(-hex-5-ynylaminocarbonyl)thiazol-2-yloxy]propane. The residue is then dissolved in 50 ml. of anhydrous methanol and cooled to 0° C. A mixture containing 1 g. of sodium methoxide in 10 ml. of anhydrous methanol is added and the resulting mixture stirred for 2 minutes and then evaporated to remove methanol. 100 Ml. of ethyl acetate is added and the resulting ethyl acetate mixture washed three times with water, dried over magnesium sulfate, and evaporated affording a residue of (+) 1,2-epoxy-3-[5-(hex-5-ynylaminocarbonyl)thiazol-2-yloxy]propane.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (+) 3-[5-(hex-5-ynylaminocarbonyl)thiazol-2-yloxy]propane-1,2-diol | C(CCCC#C)NC(=O)C1=CN=C(S1)OCC(CO)O | C13H18N2O4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (+) 2-hydroxy-1-methylsulfonyloxy-3-(5(-hex-5-ynylaminocarbonyl)thiazol-2-yloxy]propane | OC(COS(=O)(=O)C)COC=1SC(=CN1)C(=O)NCCCCC#C | C14H20N2O6S2
